US08461157B2
Step 119a: 5-Bromo-2-methoxypyrimidine (Compound 0601-261)
5-Bromo-2-chloropyrimidine (10 g, 52 mmol) and sodium methoxide (8.42 g, 156 mmol) were taken in methanol (50 mL) and stirred at room temperature overnight. Reaction mixture was concentrated followed by the addition of water. The resulting mixture was extracted with ethyl acetate and dried over MgSO4. The titled compound was obtained after concentration (8.07 g, 82.5%).

reactant | 5-Bromo-2-chloropyrimidine | 52 mmol, 10 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | sodium methoxide | 156 mmol, 8.42 g | C[O-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 5-Bromo-2-methoxypyrimidine | BrC=1C=NC(=NC1)OC | C5H5BrN2O
